US05594021
N-(4-bromo-3-methyl-5-isoxazolyl)-2-ethyl-5-methylbenzo[b]thiophene-3-sulfonamide was prepared in the same manner as described in Example 41. Reaction of 4-bromo-3-methyl-5-aminoisoxazole (1.0 mmole, 0.18 g), NaH (2.5 mmoles, 0. log), and 2-ethyl-5-methylbenzo[b]thiophene-3-sulfonylchloride (1.3 mmoles, 0.36 g) in THF (6 ml) yielded, after recrystallization from chloroform and hexanes, 0.25g (60%) of a light brown crystalline solid, m.p. 176°-178° C.

reactant | 4-bromo-3-methyl-5-aminoisoxazole | 1.0 mmole, 0.18 g | BrC=1C(=NOC1N)C | C4H5BrN2O
reactant | NaH | 2.5 mmoles | [H-].[Na+]
reactant | 2-ethyl-5-methylbenzo[b]thiophene-3-sulfonylchloride | 1.3 mmoles, 0.36 g | C(C)C1=C(C2=C(S1)C=CC(=C2)C)S(=O)(=O)Cl | C11H11ClO2S2
solvent | THF | 6 ml | C1CCOC1 | C4H8O
product | N-(4-bromo-3-methyl-5-isoxazolyl)-2-ethyl-5-methylbenzo[b]thiophene-3-sulfonamide | BrC=1C(=NOC1NS(=O)(=O)C=1C2=C(SC1CC)C=CC(=C2)C)C | C15H15BrN2O3S2
